US09079853B2
5-chloro-3-hydroxy-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-1-(2-(piperidin-1-yl)ethyl)indolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione and 1-(6-methoxypyridin-2-yl)ethanone (commercially available from Fisher Scientific). 1H-NMR δ 7.72 (t, 1H), 7.63 (d, 1H), 7.34 (d, 1H), 7.28 (d, 1H) 6.98 (d, 1H), 6.86 (d, 1H), 5.5 (bs, OH), 4.04 (d, 1H), 4.00 (s, 3H), 3.8 (m, 2H), 3.60 (d, 1H), 2.60 (m, 6H), 1.55 (m, 4H), 1.43 (m, 2H). calculated mass for C23H26ClN3O4, 443.16, observed, 444.1 (M+1).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-(2-(piperidin-1-yl)ethyl)indoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCN1CCCCC1)=O)=O | C15H17ClN2O2
reactant | 1-(6-methoxypyridin-2-yl)ethanone | COC1=CC=CC(=N1)C(C)=O | C8H9NO2
product | 5-chloro-3-hydroxy-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-1-(2-(piperidin-1-yl)ethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCN1CCCCC1)=O)(CC(=O)C1=NC(=CC=C1)OC)O | C23H26ClN3O4
